US08957070B2
N-(2-Cyano-1H-indol-7-yl)thiophene-2-sulfonamide
To a mixture of 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide (4.65 g) and pyridine (20 mL) was slowly added trifluoroacetic anhydride (4.50 mL) at 0° C., and the mixture was stirred for 1 hr. The reaction mixture was concentrated, 10% aqueous citric acid solution was added, and the resulting crystals were filtrated, washed with water and dried. The obtained crystals were subjected to silica gel column chromatography, and eluted with tetrahydrofuran-hexane (2:3, volume ratio). The eluate was treated with activated carbon and concentrated to give the title compound (4.04 g, yield 92%) as pale-yellow crystals. The crystals were recrystallized from ethyl acetate-hexane. melting point 283-284° C.

reactant | 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 4.65 g | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)N | C13H11N3O3S2
reactant | trifluoroacetic anhydride | 4.50 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-Cyano-1H-indol-7-yl)thiophene-2-sulfonamide | 4.04 g, yield 92% | C(#N)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C13H9N3O2S2
